US08633237B2
g) (S)-(3-((2-amino-2,3-dihydro-1H-inden-5-yl)methyl)-5-(trifluoromethyl)phenyl)methanol
To (S)-benzyl 5-(3-(hydroxymethyl)-5-(trifluoromethyl)benzyl)-2,3-dihydro-1H-inden-2-ylcarbamate (2.94 mmol, 1.34 g) in Ethanol (35.4 mL) was added palladium hydroxide (2.51 mmol, 0.353 g). The reaction was placed under 2 bar of hydrogen gas and allowed to stir at room temp for 30 mins. The reaction mix was filtered through a dicalite cartridge before washing with EtOH. The solvent was removed before purifying further by SCX (20 g cartridge, 1:1 MeOH/DCM wash, 2M NH3 MeOH elution). The solvent was removed to give the product as a clear gum (810 mg, 86%). MS (ESI): m/z [M+H]+ 322.2

reactant | (S)-benzyl 5-(3-(hydroxymethyl)-5-(trifluoromethyl)benzyl)-2,3-dihydro-1H-inden-2-ylcarbamate | 2.94 mmol, 1.34 g | OCC=1C=C(CC=2C=C3C[C@H](CC3=CC2)NC(OCC2=CC=CC=C2)=O)C=C(C1)C(F)(F)F | C26H24F3NO3
reactant | hydrogen | [H][H] | H2
solvent | Ethanol | 35.4 mL | C(C)O | C2H6O
catalyst | palladium hydroxide | 2.51 mmol, 0.353 g | [OH-].[Pd+2].[OH-]
product | (S)-(3-((2-amino-2,3-dihydro-1H-inden-5-yl)methyl)-5-(trifluoromethyl)phenyl)methanol | 810 mg, 86% | N[C@H]1CC2=CC=C(C=C2C1)CC=1C=C(C=C(C1)C(F)(F)F)CO | C18H18F3NO
